US07994185B2
Step D: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 21 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide (150 mg, 0.269 mmol) and NH4OH (2.5 mL, 17.97 mmol) heated in the microwave at 130° C. for 15 min the title compound was obtained as a light yellow solid (135 mg, 89% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.86 (s, 1H), 8.05 (d, J=5.1 Hz, 1H), 7.62-7.73 (m, 1H), 7.44-7.59 (m, 1H), 7.17-7.34 (m, 3H), 6.79 (br. s., 2H), 5.83 (d, J=5.1 Hz, 1H), 1.39 (s, 9H). MS (ESI): 537 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide | 0.269 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H17ClF4N4O2S2
reactant | NH4OH | 17.97 mmol, 2.5 mL | [NH4+].[OH-]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H19F4N5O2S2
